US08106064B2
N-{3-[6-(3-Cyano-5-methyl-benzoyl)-5-isopropyl-2,4-dioxo-3,4-dihydro-2 H-pyrimidin-1-ylmethyl]-5-fluoro-phenyl}-2,2,2-trifluoro-acetamide (153):
N-{3-[6-(3-Cyano-5-methyl-benzoyl)-5-isopropyl-2,4-dioxo-3,4-dihydro-2 H-pyrimidin-1-ylmethyl]-5-fluoro-phenyl}-2,2,2-trifluoro-N-(4-methoxy-benzyl)-acetamide (389 mg, 0.61 mmol) was dissolved in acetonitrile (6 ml). With stirring, ceric ammonium nitrate (669 mg, 1.2 mmol) and distilled water (3 ml) were added in this order. After 24 hr., the mixture was diluted with ethyl acetate, washed with water, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, EA:hexane (1:2)) to afford 240 mg (76%) of a white solid. 1H NMR (200 MHz, DMSO-d6) δ 1.03 (3H, d, J=6.8 Hz), 1.18 (3H, d, J=6.8 Hz), 2.09 (1H, m), 2.32 (3H, s), 4.42 (1H, d, J=16.8 Hz), 4.97 (1H, d, J=16.8 Hz), 6.80 (1H, m), 7.08 (1H, s), 7.31 (1H, m), 7.91 (1H, s), 7.96 (1H, s), 8.16 (1H, s), 11.28 (1H, s), 11.69 (1H, s).

reactant | N-{3-[6-(3-Cyano-5-methyl-benzoyl)-5-isopropyl-2,4-dioxo-3,4-dihydro-2 H-pyrimidin-1-ylmethyl]-5-fluoro-phenyl}-2,2,2-trifluoro-N-(4-methoxy-benzyl)-acetamide | 0.61 mmol, 389 mg | C(#N)C=1C=C(C(=O)C2=C(C(NC(N2CC=2C=C(C=C(C2)F)N(C(C(F)(F)F)=O)CC2=CC=C(C=C2)OC)=O)=O)C(C)C)C=C(C1)C | C33H28F4N4O5
reactant | water | 3 ml | O | H2O
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{3-[6-(3-Cyano-5-methyl-benzoyl)-5-isopropyl-2,4-dioxo-3,4-dihydro-2 H-pyrimidin-1-ylmethyl]-5-fluoro-phenyl}-2,2,2-trifluoro-acetamide | 240 mg, 76% | C(#N)C=1C=C(C(=O)C2=C(C(NC(N2CC=2C=C(C=C(C2)F)NC(C(F)(F)F)=O)=O)=O)C(C)C)C=C(C1)C | C25H20F4N4O4
